US05494908
3-[1-(4-Pyridyl)piperazinyl]-1,2-benzisoxazol-6-yl dimethylcarbamate
To a stirred solution of 3-[1-(4-pyridyl)piperazinyl]-1,2-benzisoxazol-6-ol (0.80 g) in pyridine (10 ml) was added dimethylcarbamyl chloride (0.70 g) under N2. The reaction was heated to 85° C. for 2 hours. TLC (silica gel 30% MeOH/CH2Cl2) showed no starting material was present. The solvent was removed in vacuo and the residue was flash chromatographed (silica gel) eluting with 7% MeOH/CH2Cl2 to afford 0.80 g of material. The material was further purified through recrystallization from CH2Cl2 /pet. ether to afford 0.70 g of the product, m.p. 171°-172° C.

reactant | 3-[1-(4-pyridyl)piperazinyl]-1,2-benzisoxazol-6-ol | 0.80 g | N1=CC=C(C=C1)N1C(CNCC1)C1=NOC2=C1C=CC(=C2)O | C16H16N4O2
reactant | dimethylcarbamyl chloride | 0.70 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-[1-(4-Pyridyl)piperazinyl]-1,2-benzisoxazol-6-yl dimethylcarbamate | 0.80 g | CN(C(OC1=CC2=C(C(=NO2)C2N(CCNC2)C2=CC=NC=C2)C=C1)=O)C | C19H21N5O3
